US07576115B2
2) Synthesis of 4-[(2-{1-[5-(4-t-butylphenyl)-1-ethyl-4-hydroxy-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoic acid
To methyl 4-[(2-{1-[5-(4-t-butylphenyl)-1-ethyl-4-hydroxy-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoate (0.032 mmol, 15.0 mg), methanol (1.5 mL) was added, and 1 M aqueous sodium hydroxide (0.162 mmol, 0.162 mL) was added at room temperature. After 30 minutes of stirring at room temperature and 1.25 hours of stirring at 60° C., the reactor was cooled to 0° C., and 1 M hydrochloric acid (0.162 mmol, 0.162 mL) and water were added. The precipitated solid was recovered by filtration, washed with water, dried by means of a vacuum pump and purified by silica gel thin layer chromatography (chloroform/methanol=10/1) to give the desired product as a yellow solid (6.4 mg, yield 44%).

reactant | methyl 4-[(2-{1-[5-(4-t-butylphenyl)-1-ethyl-4-hydroxy-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoate | 0.032 mmol, 15.0 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1CC)C(C)=NNC(=O)C1=CC=C(C(=O)OC)C=C1)O | C26H30N4O4
reactant | methanol | 1.5 mL | CO | CH4O
reactant | sodium hydroxide | 0.162 mmol, 1 M, 0.162 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.162 mmol, 1 M, 0.162 mL | Cl | ClH
solvent | water | O | H2O
product | 4-[(2-{1-[5-(4-t-butylphenyl)-1-ethyl-4-hydroxy-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]benzoic acid | 6.4 mg, yield 44% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1CC)C(C)=NNC(=O)C1=CC=C(C(=O)O)C=C1)O | C25H28N4O4
